* FILE: MMI_NOR2D.sp


* SPICE netlist for "MMI_NOR2D" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_NOR2D in0 in1 out 
M_0 out in1 gnd gnd n W='3.68*1u' L=ln_min  
M_1_1 out in0 gnd gnd n W='3.68*1u' L=ln_min  
M_2_1 net_1 in1 vdd vdd p W='4.9*1u' L=lp_min  
M_3_1 out in0 net_1 vdd p W='4.9*1u' L=lp_min  
M_4_1 out in0 net_2 vdd p W='4.9*1u' L=lp_min  
M_5_1 net_2 in1 vdd vdd p W='4.9*1u' L=lp_min  
M_6_1 out in0 net_3 vdd p W='4.9*1u' L=lp_min  
M_7_1 net_3 in1 vdd vdd p W='4.9*1u' L=lp_min  
.ENDS	$ MMI_NOR2D

