* FILE: MMI_OAI31A.sp


* SPICE netlist for "MMI_OAI31A" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_OAI31A in0 in1 in2 in3 out 
M_0 out in0 net_1 gnd n W='0.92*1u' L=ln_min  
M_1_1 net_1 in1 gnd gnd n W='0.92*1u' L=ln_min  
M_2_1 net_1 in2 gnd gnd n W='0.92*1u' L=ln_min  
M_3_1 net_1 in3 gnd gnd n W='0.92*1u' L=ln_min  
M_4_1 out in0 vdd vdd p W='0.92*1u' L=lp_min  
M_5_1 net_2 in3 vdd vdd p W='2.76*1u' L=lp_min  
M_6_1 net_3 in2 net_2 vdd p W='2.76*1u' L=lp_min  
M_7_1 out in1 net_3 vdd p W='2.76*1u' L=lp_min  
.ENDS	$ MMI_OAI31A

