* FILE: MMI_OR3B.sp


* SPICE netlist for "MMI_OR3B" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_OR3B in0 in1 in2 out 
Minverter1._0 out N1 gnd gnd n W='0.92*1u' L=ln_min  
Minverter1._1 out N1 vdd vdd p W='1.84*1u' L=lp_min  
M_2_1 N1 in2 gnd gnd n W='0.46*1u' L=ln_min  
M_3_1 N1 in1 gnd gnd n W='0.46*1u' L=ln_min  
M_4_1 N1 in0 gnd gnd n W='0.46*1u' L=ln_min  
M_5_1 N1 in0 net_1 vdd p W='2.76*1u' L=lp_min  
M_6_1 net_1 in1 net_2 vdd p W='2.76*1u' L=lp_min  
M_7_1 net_2 in2 vdd vdd p W='2.76*1u' L=lp_min  
.ENDS	$ MMI_OR3B

