* FILE: MMI_OR3C.sp


* SPICE netlist for "MMI_OR3C" (generated by MMI_SUE4.2.16)

.SUBCKT MMI_OR3C in0 in1 in2 out 
Minverter1._0 out N1 gnd gnd n W='1.54*1u' L=ln_min  
Minverter1._1 out N1 vdd vdd p W='3.08*1u' L=lp_min  
M_2_1 N1 in2 gnd gnd n W='0.52*1u' L=ln_min  
M_3_1 N1 in1 gnd gnd n W='0.52*1u' L=ln_min  
M_4_1 N1 in0 gnd gnd n W='0.52*1u' L=ln_min  
M_5_1 N1 in0 net_2 vdd p W='1.56*1u' L=lp_min  
M_6_1 N1 in0 net_4 vdd p W='1.56*1u' L=lp_min  
M_7_1 net_4 in1 net_1 vdd p W='1.56*1u' L=lp_min  
M_8_1 net_2 in1 net_3 vdd p W='1.56*1u' L=lp_min  
M_9_1 net_3 in2 vdd vdd p W='1.56*1u' L=lp_min  
M_10_1 net_1 in2 vdd vdd p W='1.56*1u' L=lp_min  
.ENDS	$ MMI_OR3C

