* FILE: MMI_OR2C.sp


* SPICE netlist for "MMI_OR2C" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_OR2C in0 in1 out 
Minverter1._0 out N1 gnd gnd n W='1.84*1u' L=ln_min  
Minverter1._1 out N1 vdd vdd p W='3.68*1u' L=lp_min  
M_2_1 N1 in1 gnd gnd n W='0.62*1u' L=ln_min  
M_3_1 N1 in0 gnd gnd n W='0.62*1u' L=ln_min  
M_4_1 net_1 in1 vdd vdd p W='2.48*1u' L=lp_min  
M_5_1 N1 in0 net_1 vdd p W='2.48*1u' L=lp_min  
.ENDS	$ MMI_OR2C

