* FILE: MMI_RPTRF.sp


* SPICE netlist for "MMI_RPTRF" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_RPTRF in out 
M_0 out in vdd vdd p W='29.44*1u' L=lp_min  
M_1_1 out in gnd gnd n W='14.72*1u' L=ln_min  
.ENDS	$ MMI_RPTRF

