* FILE: MMI_SFFB.sp


* SPICE netlist for "MMI_SFFB" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_SFFB clk d q s_en s_in s_out 
Minverter._0 scan_en_L s_en gnd gnd n W='0.6*1u' L=ln_min 
Minverter._1 scan_en_L s_en vdd vdd p W='1.2*1u' L=lp_min 
Minverter_1._2 q N5 gnd gnd n W='0.92*1u' L=ln_min  
Minverter_1._3 q N5 vdd vdd p W='1.84*1u' L=lp_min  
M_4_1 N1 d net_1 vdd p W='1.84*1u' L=lp_min  
M_5_1 net_1 s_en vdd vdd p W='1.84*1u' L=lp_min  
M_6_1 net_2 scan_en_L gnd gnd n W='0.92*1u' L=ln_min  
M_7_1 N1 d net_2 gnd n W='0.92*1u' L=ln_min  
Minverter_2._8 clk_L clk gnd gnd n W='0.46*1u' L=ln_min 
Minverter_2._9 clk_L clk vdd vdd p W='0.92*1u' L=lp_min 
M_10_1 N1 scan_en_L net_3 vdd p W='0.92*1u' L=lp_min  
M_11_1 N1 s_en net_4 gnd n W='0.46*1u' L=ln_min  
M_12_1 net_4 s_in gnd gnd n W='0.46*1u' L=ln_min  
M_13_1 net_3 s_in vdd vdd p W='0.92*1u' L=lp_min  
M_14_1 net_5 N5 gnd gnd n W='0.42*1u' L=ln_min  
M_15_1 N4 clk net_6 vdd p W='0.42*1u' L=lp_min  
M_16_1 N4 clk_L net_5 gnd n W='0.42*1u' L=ln_min  
M_17_1 net_6 N5 vdd vdd p W='0.42*1u' L=lp_min  
M_18_1 net_7 N3 vdd vdd p W='0.42*1u' L=lp_min  
M_19_1 N2 clk_L net_7 vdd p W='0.42*1u' L=lp_min  
M_20_1 N2 clk net_8 gnd n W='0.42*1u' L=ln_min  
M_21_1 net_8 N3 gnd gnd n W='0.42*1u' L=ln_min  
Mxgate._22 N4 clk_L N3 vdd p W='0.92*1u' L=lp_min  
Mxgate._23 N4 clk N3 gnd n W='0.42*1u' L=ln_min  
Mxgate_1._24 N1 clk N2 vdd p W='0.92*1u' L=lp_min  
Mxgate_1._25 N1 clk_L N2 gnd n W='0.42*1u' L=ln_min  
Mnand2._26 s_out N5 vdd vdd p W='0.84*1u' L=lp_min  
Mnand2._27 s_out N5 nand2%net_1 gnd n W='0.84*1u' L=ln_min 
Mnand2._28 s_out s_en vdd vdd p W='0.84*1u' L=lp_min  
Mnand2._29 nand2%net_1 s_en gnd gnd n W='0.84*1u' L=ln_min 
Minverter_3._30 N5 N4 gnd gnd n W='0.62*1u' L=ln_min  
Minverter_3._31 N5 N4 vdd vdd p W='0.92*1u' L=lp_min  
Minverter_4._32 N3 N2 gnd gnd n W='0.46*1u' L=ln_min  
Minverter_4._33 N3 N2 vdd vdd p W='0.92*1u' L=lp_min  
.ic N4=0V
.ENDS	$ MMI_SFFB

